* EESchema Netlist Version 1.1 (Spice format) creation date: 07/05/2013 12:43:24

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

*Sheet Name:/
R17  31 0 10K		
R18  30 0 10K		
R20  32 0 10K		
R21  29 0 10K		
R22  33 0 10K		
R23  28 0 10K		
U11  33 79 28 121 79 120 BSL214N		
U10  32 79 29 125 79 124 BSL214N		
R39  94 121 12 0,3W		
R34  25 122 12 0,3W		
U9  31 79 30 123 79 122 BSL214N		
SCH2  17 105 DIODESCH		
R14  141 67 10K		
C10  0 46 0,1uF		
R9  46 45 100K		
C11  119 0 150nF		
U4  0 141 119 0 65 46 27 153 LTC2955TS8-2		
R13  153 67 10K		
R12  45 27 100K		
SCH1  105 46 DIODESCH		
U5  45 64 105 46 46 55 IRF5810		
R35  123 24 5,6 0,2W		
R38  43 120 5,6 0,2W		
R37  125 43 5,6 0,2W		
R36  124 24 5,6 0,2W		
R49  26 0 1,8K		
R48  23 0 1,8K		
R1  130 105 ?		
D11  130 10 Bleue_Charge		
C30  93 0 4,7uF		
D9  127 35 Orange		
R32  127 93 820		
D8  36 126 Orange		
R31  36 93 820		
R24  111 93 820		
R25  5 93 820		
R26  112 93 820		
R27  38 93 820		
R28  129 93 820		
R29  4 93 820		
R58  128 93 82		
U6  39 138 3 103 40 0 110 34 126 35 81 104 96 67 78 106 0 MAX7317		
R6  0 105 100K		
C1  105 0 2,2uF		
C9  64 11 2,2uF		
R11  11 47 10K		
P1  20 18 48 77 19 17 51 11 JTAG		
U2  159 0 117 150 100 21 11 55 57 56 22 0 118 12 113 144 0 A3950_L		
C12  22 56 0,1uF		
R2  0 117 5K		
U1  105 105 64 64 101 99 10 11 11 47 MCP73213		
X1  14 0 13 0 QUARTZ_8Z		
C104  55 0 100uF		
C103  55 0 100uF		
C35  15 0 10nF		
R55  16 0 30K		
R56  16 68 13K		
GS1  93 15 108 GS3		
P2  15 0 68 107 109 116 Gyro		
K3  93 0 115 114 USART		
D4  38 103 Bleue		
D3  112 3 Jaune		
D1  111 39 Vert		
D6  4 110 Rouge		
U19  142 41 37 0 Line_4		
U18  41 8 1 0 Line_3		
C36  93 1 10nF		
C37  93 37 10nF		
R63  37 143 220		
R64  142 93 33		
R61  1 149 220		
R54  6 145 220		
R60  7 155 220		
C34  93 7 10nF		
C33  93 6 10nF		
U16  128 62 6 0 Line_1		
U17  8 62 7 0 Line_2		
U20  140 62 2 0 Line_5		
C39  93 2 10nF		
R67  140 93 82		
R65  2 148 220		
R47  154 0 1,8K		
R46  157 0 1,8K		
R45  151 0 1,8K		
R44  0 152 1,8K		
C14  55 11 0,47uF		
C100  55 11 220uF		
C42  67 0 10uF		
C16  67 0 0,1uF		
U7  11 93 55 LM2940		
U14  67 141 144 117 13 14 77 152 26 151 23 0 108 91 155 149 143 0 67 9 109 16 107 157 154 145 148 60 66 74 49 67 71 78 153 96 147 146 30 32 150 159 158 156 116 19 50 67 51 20 131 132 33 106 48 18 29 133 134 136 31 28 0 67 STM32F405RGT6		
C4  0 54 0,22uF		
C8  135 55 0,1uF		
C13  52 59 0,1uF		
K2  53 58 0 93 134 133 R_Motor		
U3  156 0 117 158 98 53 11 55 58 59 52 0 135 54 102 144 0 A3950_R		
C6  55 0 0,1uF		
C5  55 0 0,1uF		
K1  21 57 0 93 146 147 L_Motor		
C7  118 55 0,1uF		
C3  0 12 0,22uF		
C26  108 0 1uF		
C20  0 67 4,7uF		
C21  0 67 0,1uF		
C25  0 67 0,1uF		
C24  0 67 0,1uF		
C23  0 67 0,1uF		
C27  0 49 2,2uF		
C29  0 50 2,2uF		
R51  132 115 510		
R52  131 114 510		
R16  9 0 10K		
R15  55 9 20K		
C15  93 11 2,2uF		
D12  139 0 Blanc_5V		
R19  139 93 820		
C101  93 11 22uF		
D2  5 138 Rouge		
D5  129 40 Jaune		
C41  14 0 18pF		
C40  13 0 18pF		
C28  108 0 0,1uF		
R4  67 51 10K		
R10  67 18 10K		
R8  67 20 10K		
R7  67 48 10K		
R5  67 19 10K		
R30  137 93 820		
D7  137 34 Vert		
R50  0 136 100K		
IR1  93 25 152 108 L_Front		
IR6  93 94 26 108 R_Front		
IR2  42 24 151 108 L_Diag		
IR5  93 42 23 108 R_Diag		
IR3  93 44 157 108 L_Side		
IR4  44 43 154 108 R_Side		
R3  97 65 5,1K		
SW1  0 97 ON/OFF		
SW2  0 77 PUSH		
SP1  93 95 Piezzo		
U12  91 84 88 87 0 76 86 85 MCMT5-F-V		
R33  84 88 3,3K		
R43  76 88 1K		
R42  87 76 620		
R41  91 87 330		
R40  67 91 2K		
R53  73 0 390K		
C32  70 0 4,7uF		
C31  90 0 4,7uF		
C17  69 89 1uF		
C18  72 82 1uF		
C22  0 67 1uF		
C19  67 0 1uF		
U13  0 69 89 72 82 67 92 0 67 0 0 0 71 77 74 0 0 78 96 83 0 0 0 0 0 73 70 90 0 0 OLED_128X64		
F1  64 75 FUSE		
C38  77 0 0,1uF		
R66  67 77 100K		
R62  61 95 12		
L1  67 108 10uH		
U15  66 79 60 62 79 61 BSL214N		
R57  66 0 10K		
R59  60 0 10K		
C2  0 65 0,1uF		
BT1  75 11 LYPO_2S		
D10  80 81 Vert		
R68  80 93 820		
U8  0 67 93 MCP1703		

.end
